* File: DLHLX1.pex.netlist.pex
* Created: Tue Jan 31 10:39:21 2017
* Program "Calibre xRC"
* Version "v2015.4_33.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DLHLX1%D_VDD 1 4 8 12 17 18 41 42 43 44
c35 44 0 0.348685f
c36 43 0 0.321359f
c37 42 0 0.365704f
c38 41 0 0.315359f
c39 30 0 0.0701213f
c40 18 0 0.518639f
c41 12 0 0.566647f
c42 8 0 0.502038f
c43 4 0 0.438462f
c44 1 0 0.679519f
r45 34 44 0.302222
r46 31 43 0.302222
r47 29 42 0.302222
r48 29 30 0.0120155
r49 26 41 0.302222
r50 13 30 0.0329425
r51 12 17 0.187
r52 8 30 0.0329425
r53 1 34 0.0120155
r54 1 18 0.0329425
r55 1 22 0.0329425
r56 1 31 0.0120155
r57 1 12 0.0329425
r58 1 19 0.0329425
r59 1 26 0.0120155
r60 1 4 0.0329425
r61 1 9 0.0329425
r62 1 22 0.1105
r63 1 18 0.221
r64 1 19 0.1955
r65 1 17 0.085
r66 1 13 0.1785
r67 1 8 0.153
r68 1 9 0.238
r69 1 4 0.229415
.ends

.subckt PM_DLHLX1%GI 2 5 7 8 13 15 16 18 21 25 28 29 30 32 34 37 39 42 48
c99 48 0 0.290698f
c100 42 0 0.153392f
c101 39 0 0.0446715f
c102 37 0 0.0169559f
c103 35 0 0.0450269f
c104 34 0 0.0264208f
c105 32 0 0.06095f
c106 30 0 0.00780813f
c107 29 0 0.268963f
c108 28 0 0.0170699f
c109 25 0 0.128317f
c110 21 0 0.0828787f
c111 18 0 0.315006f
c112 16 0 0.0916243f
c113 15 0 0.207997f
c114 13 0 0.284597f
c115 8 0 0.135962f
c116 7 0 0.161472f
c117 5 0 0.529069f
c118 2 0 0.12538f
r119 42 48 0.0409481
r120 38 43 4.16667
r121 37 39 0.0519666
r122 37 38 7
r123 34 39 0.198333
r124 31 34 0.0474919
r125 31 32 0.1275
r126 29 32 0.0474919
r127 29 30 0.595
r128 28 30 0.0474919
r129 27 28 0.1275
r130 26 35 0.0197579
r131 25 27 0.0474919
r132 25 26 0.347083
r133 19 35 0.0253804
r134 19 48 0.325833
r135 18 35 0.0253804
r136 17 21 0.0474919
r137 17 18 0.335278
r138 15 16 18.7188
r139 13 16 70.8333
r140 9 15 75
r141 8 38 15.2843
r142 7 9 13.9682
r143 7 8 33.3333
r144 3 43 6.3741
r145 3 5 160.417
r146 2 21 0.103889
.ends

.subckt PM_DLHLX1%D_GND 1 6 7 8 9 26 29 32 34 36 39
c45 40 0 0.0701213f
c46 39 0 0.506289f
c47 37 0 0.0701213f
c48 36 0 0.533946f
c49 34 0 0.0701213f
c50 32 0 0.302064f
c51 30 0 0.0467475f
c52 29 0 0.562169f
c53 26 0 0.0819355f
c54 9 0 0.164799f
c55 8 0 0.142459f
c56 7 0 0.164546f
c57 6 0 0.0603098f
c58 1 0 0.365639f
r59 39 40 0.0329425
r60 38 40 0.0329425
r61 36 37 0.0329425
r62 35 37 0.0329425
r63 32 34 0.0329425
r64 31 34 0.0329425
r65 29 30 0.0231002
r66 28 30 0.0231002
r67 20 40 0.0120155
r68 16 37 0.0120155
r69 12 34 0.0120155
r70 10 30 0.0225187
r71 10 26 0.155833
r72 9 20 0.146389
r73 8 16 0.146389
r74 7 12 0.146389
r75 6 26 0.0519666
r76 1 38 0.051
r77 1 39 0.0085
r78 1 35 0.17
r79 1 36 0.0255
r80 1 31 0.187
r81 1 32 0.1445
r82 1 28 0.1275
r83 1 29 0.2295
.ends

.subckt PM_DLHLX1%GIB 2 5 11 15 19 23 25 28 29 32 33 34 36 38 39 40 41 44 46 47
+ 49 58 59 60 67 69 76
c127 76 0 0.187163f
c128 69 0 0.517151f
c129 67 0 0.0938722f
c130 60 0 0.017323f
c131 59 0 0.0366953f
c132 58 0 0.146809f
c133 49 0 0.0189079f
c134 47 0 0.155275f
c135 46 0 0.0382745f
c136 44 0 0.052919f
c137 41 0 0.0470387f
c138 40 0 0.0128135f
c139 39 0 0.0474381f
c140 38 0 0.0105806f
c141 36 0 0.00959559f
c142 34 0 0.0484323f
c143 33 0 0.166835f
c144 32 0 0.0423988f
c145 29 0 0.290858f
c146 28 0 0.0452766f
c147 25 0 0.0652777f
c148 23 0 0.204525f
c149 19 0 0.361398f
c150 15 0 0.361425f
c151 11 0 0.217627f
c152 5 0 0.371563f
c153 2 0 0.077122f
r154 64 76 9.72222
r155 63 65 0.0519666
r156 63 64 7
r157 60 63 0.0141667
r158 58 73 15.2843
r159 57 59 0.0519666
r160 57 58 7
r161 54 57 0.0425
r162 47 70 15.22
r163 47 69 15.22
r164 46 48 0.138211
r165 46 47 7
r166 44 65 0.304583
r167 41 44 0.0474919
r168 41 59 0.141667
r169 39 60 0.0216719
r170 39 40 0.14875
r171 38 40 0.0474919
r172 37 38 0.085
r173 35 54 0.0216719
r174 35 36 0.0920833
r175 33 37 0.0474919
r176 33 34 0.48875
r177 32 34 0.0474919
r178 32 53 0.085
r179 30 49 0.0359928
r180 29 36 0.0474919
r181 29 30 0.687083
r182 28 67 0.0566888
r183 27 49 0.00935391
r184 27 28 0.085
r185 26 48 0.0135992
r186 25 49 0.0359928
r187 25 26 0.269167
r188 21 23 41.6667
r189 17 76 6.3741
r190 17 19 100
r191 15 73 97.9167
r192 9 23 1.46822
r193 9 11 37.5
r194 7 21 1.46822
r195 7 69 172.917
r196 5 70 89.5833
r197 2 53 0.0519666
.ends

.subckt PM_DLHLX1%N_L1b 2 3 4 7 11 13 15 19 23 28 30 32 39 40 42 44 47 49 52 58
+ 61
c106 61 0 0.0290599f
c107 58 0 0.132102f
c108 52 0 0.0837542f
c109 49 0 0.0332155f
c110 47 0 0.0226488f
c111 44 0 0.0921742f
c112 42 0 0.0183354f
c113 40 0 0.0535405f
c114 39 0 0.00864055f
c115 32 0 0.0205638f
c116 30 0 0.0195856f
c117 28 0 0.0294658f
c118 23 0 0.212151f
c119 19 0 0.314286f
c120 15 0 0.487209f
c121 13 0 0.521982f
c122 11 0 0.21028f
c123 7 0 0.289398f
c124 4 0 0.498865f
c125 3 0 0.227711f
c126 2 0 0.0702531f
r127 57 58 11.1176
r128 52 61 0.0566888
r129 48 57 6.94444
r130 47 49 0.0519666
r131 47 48 7
r132 43 53 10.2273
r133 42 44 0.0519666
r134 42 43 7
r135 40 49 0.2125
r136 39 40 0.0599
r137 32 44 0.396667
r138 30 39 0.113333
r139 28 32 0.0474919
r140 28 38 0.085
r141 25 30 0.0474919
r142 25 61 0.0920833
r143 21 23 37.5
r144 17 19 66.6667
r145 16 53 8.78207
r146 15 21 13.9682
r147 15 16 145.833
r148 13 17 13.9682
r149 13 58 137.5
r150 9 53 11.947
r151 9 11 37.5
r152 5 57 6.3741
r153 5 7 58.3333
r154 4 57 6.3741
r155 3 43 15.3561
r156 3 4 179.167
r157 2 38 0.0519666
.ends

.subckt PM_DLHLX1%N$128 2 5 9 13 17 21 23 24 26 28 29 33 38 45 47 49 51 57 60
c99 60 0 0.127883f
c100 57 0 0.153916f
c101 51 0 0.0856155f
c102 49 0 0.0165762f
c103 47 0 0.0336976f
c104 45 0 0.0411878f
c105 38 0 0.149465f
c106 33 0 0.0567071f
c107 29 0 0.0176104f
c108 28 0 0.0734979f
c109 26 0 0.173896f
c110 24 0 0.0905794f
c111 23 0 0.193506f
c112 21 0 0.416609f
c113 17 0 0.835253f
c114 13 0 0.480853f
c115 9 0 0.553965f
c116 5 0 0.283477f
c117 2 0 0.0744691f
r118 51 60 0.0566888
r119 46 57 15.2843
r120 45 48 0.0522107
r121 45 47 0.0522107
r122 45 46 7
r123 38 54 15.22
r124 38 53 15.22
r125 37 38 7
r126 34 49 0.0359928
r127 34 60 0.4675
r128 33 49 0.0359928
r129 33 48 0.17
r130 30 39 0.0216719
r131 30 47 0.226667
r132 29 37 0.0520915
r133 28 49 0.00935391
r134 28 29 0.262083
r135 25 26 33.3333
r136 23 24 18.7188
r137 23 54 64.5833
r138 19 26 1.46822
r139 19 21 104.167
r140 15 25 1.46822
r141 15 17 233.333
r142 13 25 12.5
r143 13 57 150
r144 9 53 166.667
r145 5 24 68.75
r146 2 39 0.0330556
.ends

.subckt PM_DLHLX1%Q 2 3 6 8 16 22
c34 22 0 0.13633f
c35 16 0 0.0842717f
c36 8 0 0.178668f
c37 6 0 0.125355f
c38 3 0 0.108531f
c39 2 0 0.0667765f
r40 16 22 0.0566888
r41 6 8 0.0549764
r42 6 14 0.474583
r43 3 8 0.0769809
r44 3 22 0.425
r45 2 14 0.0519666
.ends

.subckt PM_DLHLX1%QN 2 8 9 18
c11 24 0 0.235749f
c12 18 0 0.119017f
c13 9 0 0.254489f
c14 8 0 0.28814f
c15 2 0 0.101781f
r16 18 24 0.0566888
r17 12 24 0.432083
r18 9 16 0.474583
r19 8 12 0.0739041
r20 8 9 0.0542887
r21 2 16 0.0519666
.ends

.subckt PM_DLHLX1%G 3 6 9 13 16 24
c39 24 0 0.233884f
c40 16 0 0.0362807f
c41 13 0 0.204037f
c42 9 0 0.207277f
c43 6 0 0.107315f
c44 3 0 0.833437f
r45 23 24 13.8889
r46 19 23 2.77778
r47 16 19 7
r48 11 13 37.5
r49 7 13 1.46822
r50 7 9 37.5
r51 6 24 6.3741
r52 5 11 1.46822
r53 5 6 31.25
r54 1 23 6.3741
r55 1 3 231.25
.ends

.subckt PM_DLHLX1%D 2 3 4 7 11 13 15 18
c37 18 0 0.169985f
c38 15 0 0.0370231f
c39 13 0 0.0478424f
c40 11 0 0.762852f
c41 7 0 0.357137f
c42 4 0 0.0804258f
c43 3 0 0.220062f
c44 2 0 0.135674f
r45 15 18 7
r46 9 13 10.5861
r47 9 11 237.5
r48 5 13 10.5861
r49 5 7 100
r50 3 13 2.75115
r51 3 4 75
r52 2 18 15.2843
r53 1 4 13.9682
r54 1 2 39.5833
.ends

