* File: DLHQLX1.pex.netlist.pex
* Created: Tue Jan 31 10:40:17 2017
* Program "Calibre xRC"
* Version "v2015.4_33.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DLHQLX1%D_VDD 1 4 8 12 16 24 42 43 44 45
c32 45 0 0.115172f
c33 44 0 0.28368f
c34 43 0 0.280854f
c35 42 0 0.267994f
c36 32 0 0.0701213f
c37 21 0 0.126757f
c38 16 0 0.343021f
c39 12 0 0.559665f
c40 8 0 0.308603f
c41 4 0 0.442347f
c42 1 0 0.494832f
r43 33 44 0.273889
r44 31 43 0.273889
r45 31 32 0.0120155
r46 28 42 0.273889
r47 22 24 0.068
r48 20 45 0.0392853
r49 20 21 0.103889
r50 13 32 0.0329425
r51 8 32 0.0329425
r52 1 21 0.0120155
r53 1 16 0.0329425
r54 1 22 0.0329425
r55 1 33 0.0120155
r56 1 12 0.0329425
r57 1 17 0.0329425
r58 1 28 0.0120155
r59 1 4 0.0329425
r60 1 9 0.0329425
r61 1 24 0.03825
r62 1 16 0.22525
r63 1 17 0.0595
r64 1 12 0.272
r65 1 13 0.1785
r66 1 8 0.153
r67 1 9 0.102
r68 1 4 0.2295
.ends

.subckt PM_DLHQLX1%GI 2 5 7 11 14 25 26 27 30 37
c68 37 0 0.280611f
c69 30 0 0.117508f
c70 27 0 0.340693f
c71 26 0 0.135078f
c72 25 0 0.0198885f
c73 23 0 0.0630002f
c74 14 0 0.27187f
c75 11 0 0.561868f
c76 7 0 0.185532f
c77 5 0 0.537455f
c78 2 0 0.101781f
r79 30 37 0.0566888
r80 26 33 4.16667
r81 26 32 15.2843
r82 25 27 0.0519666
r83 25 26 7
r84 18 23 0.00935391
r85 18 27 1.0625
r86 15 23 0.0359928
r87 15 37 0.53125
r88 14 23 0.0359928
r89 14 22 0.502917
r90 9 11 177.083
r91 8 33 6.3741
r92 7 9 13.9682
r93 7 8 41.6667
r94 5 32 160.417
r95 2 22 0.0519666
.ends

.subckt PM_DLHQLX1%D_GND 1 6 7 8 9 27 30 33 45 50
c35 45 0 0.316784f
c36 34 0 0.0701213f
c37 33 0 0.546094f
c38 31 0 0.0701213f
c39 30 0 0.308386f
c40 28 0 0.0701213f
c41 27 0 0.389449f
c42 9 0 0.211122f
c43 8 0 0.142459f
c44 7 0 0.175102f
c45 6 0 0.174238f
c46 1 0 0.325054f
r47 48 50 0.04675
r48 33 34 0.0329425
r49 32 34 0.0329425
r50 30 31 0.0329425
r51 29 31 0.0329425
r52 27 28 0.0329425
r53 26 28 0.0329425
r54 18 34 0.0120155
r55 14 31 0.0120155
r56 10 28 0.0120155
r57 9 22 0.146389
r58 8 18 0.146389
r59 7 14 0.146389
r60 6 10 0.146389
r61 1 22 0.0120155
r62 1 45 0.0329425
r63 1 48 0.0329425
r64 1 50 0.034
r65 1 45 0.25075
r66 1 32 0.034
r67 1 33 0.0255
r68 1 29 0.187
r69 1 30 0.1445
r70 1 26 0.1275
r71 1 27 0.204
.ends

.subckt PM_DLHQLX1%GIB 2 5 8 11 15 19 23 25 28 30 31 32 34 36 37 38 40 43 45 56
+ 60 61 64 74
c113 74 0 0.187127f
c114 64 0 0.129909f
c115 61 0 0.017323f
c116 60 0 0.222979f
c117 56 0 0.14972f
c118 45 0 0.0263791f
c119 43 0 0.182645f
c120 40 0 0.0831348f
c121 38 0 0.0452281f
c122 37 0 0.06715f
c123 36 0 0.0136836f
c124 34 0 0.025327f
c125 32 0 0.0612056f
c126 31 0 0.181774f
c127 30 0 0.134753f
c128 28 0 0.0182919f
c129 25 0 0.0320163f
c130 23 0 0.132958f
c131 19 0 0.361398f
c132 15 0 0.406408f
c133 11 0 0.441767f
c134 8 0 0.324626f
c135 5 0 0.373523f
c136 2 0 0.0960998f
r137 59 74 9.72222
r138 58 61 0.0141667
r139 58 60 0.0519666
r140 58 59 7
r141 56 71 15.2843
r142 55 56 7
r143 53 55 0.0878553
r144 49 64 0.113333
r145 46 49 0.141667
r146 43 65 12.5
r147 42 45 0.0519666
r148 42 43 7
r149 39 61 0.0216719
r150 39 40 0.304583
r151 38 55 0.0539384
r152 37 40 0.0474919
r153 37 38 0.141667
r154 35 53 0.0155436
r155 35 36 0.120417
r156 34 60 0.687083
r157 32 49 0.06375
r158 31 36 0.0474919
r159 31 32 0.389583
r160 30 34 0.0474919
r161 29 52 0.0185799
r162 29 30 0.269167
r163 28 46 0.00499195
r164 27 28 0.120417
r165 25 27 0.0474919
r166 25 45 0.0920833
r167 21 23 16.6667
r168 17 74 6.3741
r169 17 19 100
r170 15 71 110.417
r171 9 65 6.3741
r172 9 11 110.417
r173 8 65 6.3741
r174 7 23 1.46822
r175 7 8 110.417
r176 3 21 1.46822
r177 3 5 91.6667
r178 2 52 0.0407674
.ends

.subckt PM_DLHQLX1%N_L1b 2 3 4 5 7 10 12 16 19 20 22 24 28 35 36 38 40 43 45 48
+ 53
c86 53 0 0.12754f
c87 45 0 0.0460618f
c88 43 0 0.0240402f
c89 40 0 0.0901419f
c90 38 0 0.0180107f
c91 36 0 0.0535405f
c92 35 0 0.0129028f
c93 28 0 0.0287459f
c94 24 0 0.0294658f
c95 20 0 0.34238f
c96 19 0 0.240422f
c97 16 0 0.476659f
c98 12 0 0.260276f
c99 10 0 0.205798f
c100 5 0 0.443334f
c101 4 0 0.529822f
c102 3 0 0.227487f
c103 2 0 0.0704695f
r104 48 53 0.129814
r105 44 51 15.6963
r106 43 45 0.0519666
r107 43 44 7
r108 39 49 10.2273
r109 38 40 0.0519666
r110 38 39 7
r111 36 45 0.2125
r112 35 36 0.0599
r113 28 40 0.396667
r114 26 53 0.0144216
r115 26 35 0.113333
r116 24 28 0.0474919
r117 24 34 0.085
r118 20 22 41.6667
r119 19 20 13.9682
r120 18 19 79.1667
r121 14 49 8.78207
r122 14 16 114.583
r123 13 51 6.05135
r124 12 18 13.9682
r125 12 13 58.3333
r126 8 49 11.947
r127 8 10 37.5
r128 5 44 15.3427
r129 5 7 45.8333
r130 4 51 11.0619
r131 3 39 15.3561
r132 3 4 187.5
r133 2 34 0.0519666
.ends

.subckt PM_DLHQLX1%N$128 2 5 9 11 12 14 19 28 36
c63 36 0 0.144563f
c64 28 0 0.0807587f
c65 26 0 0.0226703f
c66 19 0 0.178447f
c67 14 0 0.165366f
c68 12 0 0.0179469f
c69 11 0 0.0777641f
c70 9 0 0.553804f
c71 5 0 0.566629f
c72 2 0 0.0791809f
r73 29 31 5.55556
r74 28 36 0.0566888
r75 19 31 5.55556
r76 18 19 7
r77 15 26 0.0359928
r78 15 36 0.53125
r79 14 26 0.0359928
r80 13 21 0.0216719
r81 13 14 0.502917
r82 12 18 0.0519666
r83 11 26 0.00935391
r84 11 12 0.262083
r85 7 31 6.3741
r86 7 9 166.667
r87 3 29 6.3741
r88 3 5 170.833
r89 2 21 0.0330556
.ends

.subckt PM_DLHQLX1%Q 2 12 15
c10 15 0 0.359814f
c11 12 0 0.198799f
c12 2 0 0.209736f
r13 10 12 0.051
r14 8 15 0.2975
r15 7 10 0.0255
r16 7 8 0.00499195
r17 3 10 0.00941327
r18 2 3 0.160556
.ends

.subckt PM_DLHQLX1%G 3 7 10 13
c30 13 0 0.148003f
c31 10 0 0.0331f
c32 7 0 0.870858f
c33 3 0 0.383052f
r34 13 17 15.2843
r35 13 16 15.2843
r36 10 13 7
r37 7 17 243.75
r38 3 16 93.75
.ends

.subckt PM_DLHQLX1%D 3 7 10 17
c31 17 0 0.231274f
c32 10 0 0.0279869f
c33 7 0 0.368152f
c34 3 0 0.774444f
r35 13 17 22.2222
r36 10 13 7
r37 5 17 6.3741
r38 5 7 102.083
r39 1 17 6.3741
r40 1 3 235.417
.ends

