* File: DLHRQLX1.pex.netlist.pex
* Created: Tue Jan 31 10:41:53 2017
* Program "Calibre xRC"
* Version "v2015.4_33.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DLHRQLX1%D_VDD 1 4 8 12 16 24 41 42 43 44
c41 44 0 0.22084f
c42 43 0 0.22334f
c43 42 0 0.232623f
c44 41 0 0.208215f
c45 30 0 0.0701213f
c46 24 0 0.460004f
c47 16 0 0.50226f
c48 12 0 0.528351f
c49 8 0 0.303044f
c50 4 0 0.432692f
c51 1 0 0.210364f
r52 34 44 0.226667
r53 31 43 0.226667
r54 29 42 0.226667
r55 29 30 0.0120155
r56 26 41 0.226667
r57 13 30 0.0329425
r58 8 30 0.0329425
r59 1 34 0.0120155
r60 1 16 0.0329425
r61 1 20 0.0329425
r62 1 31 0.0120155
r63 1 12 0.0329425
r64 1 17 0.0329425
r65 1 26 0.0120155
r66 1 4 0.0329425
r67 1 9 0.0329425
r68 1 24 0.085
r69 1 20 0.1105
r70 1 16 0.221
r71 1 17 0.1955
r72 1 12 0.272
r73 1 13 0.1785
r74 1 8 0.153
r75 1 9 0.102
r76 1 4 0.2295
.ends

.subckt PM_DLHRQLX1%GI 2 5 7 8 11 16 20 21 23 26 28 35 37 38 39 42 44
c88 44 0 0.121898f
c89 39 0 0.167188f
c90 38 0 0.069823f
c91 37 0 0.0173415f
c92 35 0 0.0157863f
c93 28 0 0.0810357f
c94 26 0 0.0452935f
c95 24 0 0.0560871f
c96 23 0 0.169808f
c97 22 0 0.0560871f
c98 21 0 0.221421f
c99 20 0 0.187561f
c100 18 0 0.14964f
c101 16 0 0.0912941f
c102 11 0 0.479112f
c103 8 0 0.184921f
c104 7 0 0.154229f
c105 5 0 0.529469f
c106 2 0 0.101781f
r107 42 44 0.0320928
r108 37 39 0.0519666
r109 37 38 7
r110 30 35 0.00935391
r111 30 39 0.460417
r112 27 35 0.0359928
r113 27 28 0.19125
r114 26 35 0.0359928
r115 25 26 0.0991667
r116 23 28 0.0474919
r117 23 24 0.545417
r118 21 25 0.0474919
r119 21 22 0.545417
r120 20 44 0.0228726
r121 19 24 0.0474919
r122 19 20 0.36125
r123 18 22 0.0474919
r124 18 34 0.283333
r125 16 38 18.0556
r126 15 16 1.4821
r127 14 38 15.2843
r128 9 11 147.917
r129 8 15 24.9937
r130 7 9 13.9682
r131 7 8 27.0833
r132 5 14 162.5
r133 2 34 0.0519666
.ends

.subckt PM_DLHRQLX1%D_GND 1 6 7 8 9 19 22 39 43 48
c32 48 0 0.574697f
c33 43 0 0.827474f
c34 39 0 0.547653f
c35 23 0 0.0701213f
c36 22 0 0.302064f
c37 20 0 0.0701213f
c38 19 0 0.389449f
c39 7 0 0.165648f
c40 6 0 0.154142f
r41 22 23 0.0329425
r42 21 23 0.0329425
r43 19 20 0.0329425
r44 18 20 0.0329425
r45 14 23 0.0120155
r46 10 20 0.0120155
r47 9 48 0.0533226
r48 8 43 0.0533226
r49 7 14 0.146389
r50 6 10 0.146389
r51 1 9 0.02125
r52 1 8 0.0354167
r53 1 39 0.11475
r54 1 48 0.17
r55 1 43 0.1275
r56 1 21 0.187
r57 1 22 0.1445
r58 1 18 0.1275
r59 1 19 0.204
.ends

.subckt PM_DLHRQLX1%GIB 2 5 7 9 12 16 18 21 22 23 24 27 28 29 31 34 36 44 45 47
+ 54 65
c110 65 0 0.241496f
c111 54 0 0.140864f
c112 47 0 0.0252624f
c113 45 0 0.148114f
c114 44 0 0.120739f
c115 42 0 0.0285675f
c116 36 0 0.0168265f
c117 34 0 0.207792f
c118 31 0 0.0914098f
c119 29 0 0.0125302f
c120 28 0 0.0342017f
c121 27 0 0.0105806f
c122 24 0 0.197475f
c123 23 0 0.0317618f
c124 22 0 0.186117f
c125 21 0 0.0423988f
c126 18 0 0.0572193f
c127 16 0 0.357212f
c128 12 0 0.322819f
c129 7 0 0.247617f
c130 5 0 1.08792f
c131 2 0 0.0714201f
r132 55 57 11.1111
r133 51 65 20.8333
r134 50 52 0.0519666
r135 50 51 7
r136 47 50 0.0141667
r137 45 62 15.2843
r138 44 45 7
r139 41 54 0.132222
r140 41 42 0.0004726
r141 34 57 4.16667
r142 33 36 0.0519666
r143 33 34 7
r144 31 44 0.125547
r145 31 52 0.460417
r146 28 47 0.0216719
r147 28 29 0.0920833
r148 27 29 0.0474919
r149 26 27 0.085
r150 25 42 0.0497087
r151 24 44 0.0518804
r152 24 25 0.481667
r153 22 26 0.0474919
r154 22 23 0.48875
r155 21 23 0.0474919
r156 21 40 0.085
r157 18 42 0.0497087
r158 18 36 0.255
r159 14 65 6.3741
r160 14 16 100
r161 12 62 85.4167
r162 7 57 6.3741
r163 7 9 45.8333
r164 3 55 6.3741
r165 3 5 312.5
r166 2 40 0.0519666
.ends

.subckt PM_DLHRQLX1%N_L1b 2 4 5 7 8 9 12 15 16 18 20 21 23 24 26 28 30 32 35 36
+ 37 40 48 49 50 53 55 58 60 64 65 70 71 76 79 81 88
c117 88 0 0.042863f
c118 81 0 0.0824083f
c119 79 0 0.452514f
c120 76 0 0.195095f
c121 71 0 0.114662f
c122 65 0 0.167289f
c123 64 0 0.0644002f
c124 60 0 0.115907f
c125 58 0 0.0290755f
c126 55 0 0.0452516f
c127 53 0 0.0234624f
c128 50 0 0.0276267f
c129 49 0 0.158739f
c130 48 0 0.0178311f
c131 40 0 0.138803f
c132 37 0 0.10854f
c133 36 0 0.028225f
c134 35 0 0.0664067f
c135 32 0 0.0218285f
c136 30 0 0.0182093f
c137 28 0 0.0712555f
c138 26 0 0.00905937f
c139 24 0 0.0189952f
c140 23 0 0.0329688f
c141 21 0 0.0331825f
c142 20 0 0.0294658f
c143 16 0 0.248528f
c144 9 0 0.138101f
c145 8 0 0.446968f
c146 5 0 0.249264f
c147 4 0 0.217169f
c148 2 0 0.0702531f
r149 71 88 0.0566888
r150 70 81 0.0188889
r151 65 79 15.2843
r152 64 67 0.0519666
r153 64 65 7
r154 59 76 17.0384
r155 58 61 0.0141667
r156 58 60 0.0519666
r157 58 59 7
r158 54 75 7.18391
r159 53 55 0.0519666
r160 53 54 7
r161 48 50 0.0519666
r162 48 49 7
r163 41 88 0.085
r164 40 67 0.375417
r165 38 61 0.0216719
r166 37 41 0.0474919
r167 37 38 0.198333
r168 35 40 0.0474919
r169 35 36 0.113333
r170 33 36 0.0474919
r171 33 60 0.347083
r172 32 50 0.184167
r173 30 55 0.219583
r174 28 32 0.0474919
r175 27 28 0.4675
r176 25 30 0.0474919
r177 25 26 0.085
r178 23 27 0.0474919
r179 23 24 0.1275
r180 22 81 0.0216719
r181 21 26 0.0474919
r182 21 22 0.10625
r183 20 24 0.0474919
r184 20 46 0.085
r185 16 76 5.0714
r186 16 18 45.8333
r187 15 79 62.5
r188 12 15 70.8333
r189 9 75 11.0502
r190 8 76 10.9916
r191 8 9 137.5
r192 5 75 5.9693
r193 5 7 45.8333
r194 4 54 5.9693
r195 3 49 15.2843
r196 3 4 75
r197 2 46 0.0519666
.ends

.subckt PM_DLHRQLX1%N$128 2 5 9 13 14 15 16 18 23 25 28 30 37
c73 37 0 0.230744f
c74 30 0 0.0791037f
c75 28 0 0.0067509f
c76 25 0 0.117256f
c77 23 0 0.243513f
c78 18 0 0.00735517f
c79 16 0 0.0278959f
c80 15 0 0.0465511f
c81 14 0 0.124595f
c82 13 0 0.24247f
c83 9 0 0.460042f
c84 5 0 0.367134f
r85 30 37 0.0566888
r86 23 31 23.6111
r87 22 23 7
r88 19 28 0.0359928
r89 19 37 0.715417
r90 18 28 0.0359928
r91 17 25 0.0142585
r92 17 18 0.0920833
r93 16 22 0.0519666
r94 15 28 0.00935391
r95 15 16 0.17
r96 13 14 26.5312
r97 11 31 6.3741
r98 11 13 87.5
r99 7 31 6.3741
r100 7 9 133.333
r101 5 14 102.083
r102 2 25 0.119
.ends

.subckt PM_DLHRQLX1%Q 2 3 4 9
c23 9 0 0.0791037f
c24 4 0 0.222807f
c25 3 0 0.114246f
r26 4 9 0.0566888
r27 3 4 0.7225
r28 2 3 0.133134
.ends

.subckt PM_DLHRQLX1%G 3 7 10 13
c30 13 0 0.143466f
c31 10 0 0.0396308f
c32 7 0 0.700178f
c33 3 0 0.612182f
r34 13 17 15.2843
r35 13 16 15.2843
r36 10 13 7
r37 7 17 193.75
r38 3 16 164.583
.ends

.subckt PM_DLHRQLX1%D 3 7 10 17
c31 17 0 0.249924f
c32 10 0 0.024839f
c33 7 0 0.435807f
c34 3 0 0.750618f
r35 13 17 22.2222
r36 10 13 7
r37 5 17 6.3741
r38 5 7 122.917
r39 1 17 6.3741
r40 1 3 235.417
.ends

.subckt PM_DLHRQLX1%R 3 5 6 8 11 15 17
c41 17 0 0.04428f
c42 15 0 0.149617f
c43 11 0 0.483535f
c44 8 0 0.255588f
c45 6 0 0.0697463f
c46 5 0 0.678618f
c47 3 0 0.484113f
r48 15 17 7
r49 9 15 15.2843
r50 9 11 122.917
r51 8 15 15.2843
r52 7 8 85.4167
r53 5 7 13.9682
r54 5 6 195.833
r55 1 6 13.9682
r56 1 3 125
.ends

